### PR TITLE
[Merged by Bors] - feat: a collection of roots in a root system is linearly independent iff the same is true of the corresponding set of coroots

### PR DESCRIPTION
**Pull request by ocfnash**
---

Work toward https://github.com/leanprover-community/mathlib4/issues/28717

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/RootSystem/Finite/Nondegenerate.lean [hunk 1]
```diff
@@ -348,6 +348,54 @@ lemma rootSpan_eq_top_iff :
...
+lemma polarizationEquiv_toLinearMap :
+    P.PolarizationEquiv.toLinearMap = P.Polarization := by
+  simp only [PolarizationEquiv, LinearMap.BilinForm.toDual, RootPairing.toInvariantForm_form,
+    ← P.flip_comp_polarization_eq_rootForm, RootPairing.flip_toLinearMap]
+  ext m
+  let e := P.flip.toPerfPair
+  change e.symm (e _) = _
+  simp
+
+lemma polarizationEquiv_apply (m : M) :
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/RootSystem/Finite/Nondegenerate.lean:371]: Should this be simp, or did you leave the attr out for a reason? (If so, maybe add a short comment.)
```suggestion
@[simp]
lemma polarizationEquiv_apply (m : M) :
```

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors d+

File: Mathlib/LinearAlgebra/RootSystem/Finite/Nondegenerate.lean (hunk 1 above)
Comment (ocfnash) [reply Mathlib/LinearAlgebra/RootSystem/Finite/Nondegenerate.lean:371]: Comment added.

**Comment by ocfnash** [comment]
bors merge
